US07875645B2
a) 2,6-Diethyl-4-hydroxy-benzaldehyde
To a solution of 9.00 g (46.8 mmol)) 2,6-diethyl-4-methoxy-benzaldehyde in 50 ml dichloromethane at −78° C. was added 103 ml (103 mmol) of a 1 M solution of boron tribromide in dichloromethane and the reaction mixture was allowed to warm to room temperature and then heated at reflux for 16 h. The reaction mixture was quenched by pouring onto ice and the resulting mixture was then diluted with ethyl acetate and washed sequentially with water and with saturated brine. The phases were separated and the organic phase was dried over Na2SO4, filtered and concentrated in vacuo to afford 8.68 g (100%) of the title compound as a brown crystalline solid. MS (ISP): 177.4 ([M-H]−, 100%).

reactant | 2,6-diethyl-4-methoxy-benzaldehyde | C(C)C1=C(C=O)C(=CC(=C1)OC)CC | C12H16O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,6-Diethyl-4-hydroxy-benzaldehyde | 8.68 g, 100% | C(C)C1=C(C=O)C(=CC(=C1)O)CC | C11H14O2
